US09403816B2
Methyl 5-bromo-2-(2-phenylacetamido)benzoate
To a mixture of methyl 2-amino-5-bromobenzoate (9.00 g, 39.1 mmol) and Et3N (7.6 mL, 54.8 mmol) in CH2Cl2 (90 mL) at 4° C. was added 2-phenylacetyl chloride (7.26 g, 46.9 mmol) dropwise. After completion of the addition, the cooling bath was removed and the mixture was stirred for 27 hours. TLC showed that some of the starting material methyl 2-amino-5-bromobenzoate still remained. More 2-phenylacetyl chloride (1.88 g, 12.2 mmol) and Et3N (2.2 mL, 15.9 mmol) were added, and the mixture was stirred overnight. K2CO3 (aqueous) was added, the organic layer was separated, and the aqueous layer was extracted with CH2Cl2. The combined organic layers were washed with water, dried (Na2SO4), filtered, and concentrated in vacuo. CH3CN (100 mL) was added, and the precipitated solid was filtered, washed with Et2O, and dried to afford the title compound. The filtrate was concentrated in vacuo, and the solid was filtered, washed with Et2O, and dried to provide additional title compound.

reactant | methyl 2-amino-5-bromobenzoate | 39.1 mmol, 9.00 g | NC1=C(C(=O)OC)C=C(C=C1)Br | C8H8BrNO2
reactant | Et3N | 54.8 mmol, 7.6 mL | CCN(CC)CC | C6H15N
reactant | 2-phenylacetyl chloride | 46.9 mmol, 7.26 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | 2-phenylacetyl chloride | 12.2 mmol, 1.88 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | Et3N | 15.9 mmol, 2.2 mL | CCN(CC)CC | C6H15N
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 90 mL | C(Cl)Cl | CH2Cl2
product | Methyl 5-bromo-2-(2-phenylacetamido)benzoate | BrC=1C=CC(=C(C(=O)OC)C1)NC(CC1=CC=CC=C1)=O | C16H14BrNO3
